US07320995B2
1-benzyl-2,4,5-tribromo-imidazole
Combine 2,4,5-tribromoimidazole (15.29 g, 0.050 mol), cesium carbonate (18.0 g, 0.055 mol), benzyl bromide (6.3 mL, 0.053 mol) and dimethylformamide (100 mL) and stir at 20° C. for 18 hours. Filter solids and concentrate under reduced pressure. Suspend in dichloromethane, filter through 2 cm pad silica gel and wash with dichloromethane (1 L). Concentrate filtrates under reduced pressure. Redissolve in dichloromethane (15 mL), add 4 M HCl in dioxane (12.5 mL, 0.050 mol), cool to −20° C. and filter solids. Concentrate filtrate, dissolve in ethyl ether, add 1 M HCl/ether (20 mL) and hexane (40 mL), cool −20° C. and filter. Combine solids and dry under reduced pressure to give 19.6 g (90%, 0.045 mol) of the title compound. MS(ES+): m/z=393.0 (M+H)+

reactant | 2,4,5-tribromoimidazole | 0.050 mol, 15.29 g | BrC=1NC(=C(N1)Br)Br | C3HBr3N2
reactant | cesium carbonate | 0.055 mol, 18.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 0.053 mol, 6.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 0.050 mol, 12.5 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-2,4,5-tribromo-imidazole | 0.045 mol, 19.6 g, 90% | C(C1=CC=CC=C1)N1C(=NC(=C1Br)Br)Br | C10H7Br3N2
